US08227601B2
4-(4-(4-Acetyl-2,6-dimethylphenoxy)-7-chloro-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
To a solution of 4-(4-(4-acetyl-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile (13 mg, 0.03 mmol) in CH2Cl2 (1 mL) was added NCS (4.4 mg, 0.03 mmol) and the mixture refluxed for 16 h. After the completion of the reaction, the solvent was concentrated and purified by preparative TLC eluting with hexanes:ethyl acetate (2:1) to give the product (4.2 mg, 30%).

reactant | 4-(4-(4-acetyl-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 0.03 mmol, 13 mg | C(C)(=O)C1=CC(=C(OC=2C3=C(N=C(N2)NC2=CC=C(C#N)C=C2)C=CN3)C(=C1)C)C | C23H19N5O2
reactant | NCS | 0.03 mmol, 4.4 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(4-Acetyl-2,6-dimethylphenoxy)-7-chloro-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 4.2 mg, 30% | C(C)(=O)C1=CC(=C(OC=2C3=C(N=C(N2)NC2=CC=C(C#N)C=C2)C(=CN3)Cl)C(=C1)C)C | C23H18ClN5O2
